US06258829B1
Ethyl 2-{4-[2-(N,N-dimethylamino)ethylaminocarbonyl]phenoxymethyl}-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate
In an atmosphere of argon, ethyl 2-(4-carboxyphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate (1.22 g, 3.31 mmol) was dissolved in methylene chloride (5.0 ml), and the solution was mixed with N,N-dimethylethylenediamine hydrochloride (0.44 ml, 4.01 mmol) and 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide (EDC) hydrochloride (954.2 mg, 4.98 mmol) at 0° C. and then stirred at room temperature for 15 hours. The reaction solution was diluted with chloroform, mixed with saturated sodium bicarbonate aqueous solution and then extracted with chloroform. The thus obtained organic layer was washed with water and saturated brine in that order and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the resulting residue was purified by a silica gel column chromatography (chloroform:methanol=10:1) to obtain the title compound (767.2 mg, 52.7%) as pale yellow amorphous.

reactant | ethyl 2-(4-carboxyphenoxymethyl)-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 3.31 mmol, 1.22 g | C(=O)(O)C1=CC=C(OCC2=C(C=C3C(=N2)CCCCC3)C(=O)OCC)C=C1 | C21H23NO5
reactant | N,N-dimethylethylenediamine hydrochloride | 4.01 mmol, 0.44 ml | Cl.CN(CCN)C
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide | 4.98 mmol, 954.2 mg | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | Ethyl 2-{4-[2-(N,N-dimethylamino)ethylaminocarbonyl]phenoxymethyl}-6,7,8,9-tetrahydro-5H-cyclohepta[b]pyridine-3-carboxylate | 767.2 mg, 52.7% | CN(C)CCNC(=O)C1=CC=C(OCC2=C(C=C3C(=N2)CCCCC3)C(=O)OCC)C=C1 | C25H33N3O4
